US06087380
1-Methyl-2-[(4-amidinophenyl)sulphonylmethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
A solution of 0.40 g (0.70 mMol) of 1-methyl-2-[(4-amidinophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride in 10 ml of formic acid was mixed with 2 ml of 30% hydrogen peroxide solution and the mixture was stirred for 16 hours at room temperature. Then the solvent was distilled off in vacuo, whereupon the desired compound was obtained as a beige solid (contaminated with some 1-methyl-2-[(4-amidinophenyl)sulfinylmethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride). Yield: 95% of theory, C25H31N6O5S (513.62) Rf value: 0.50 (silica gel; ethyl acetate/ethanol/1N hydrochloric acid =50:45:5) EKA mass spectrum: (M+H)+ =514

reactant | 1-methyl-2-[(4-amidinophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | 0.70 mMol, 0.40 g | Cl.C(CC)N(C(=O)C1=CC2=C(N(C(=N2)CSC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | hydrogen peroxide | 2 ml | OO | H2O2
reactant | 1-methyl-2-[(4-amidinophenyl)sulfinylmethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C(CC)N(C(=O)C1=CC2=C(N(C(=N2)CS(=O)C2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | ethyl acetate ethanol | 1N | C(C)(=O)OCC.C(C)O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 1-Methyl-2-[(4-amidinophenyl)sulphonylmethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 95% | Cl.C(CC)N(C(=O)C1=CC2=C(N(C(=N2)CS(=O)(=O)C2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C25H31N5O5S.ClH/c1-4-13-30(14-12-23(31)35-5-2)25(32)18-8-11-21-20(15-18)28-22(29(21)3)16-36(33,34)19-9-6-17(7-10-19)24(26)27;/h6-11,15H,4-5,12-14,16H2,1-3H3,(H3,26,27);1H
